US06191124B1
3-(3-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone (Formula P-1), 3.51 g, was condensed with 2-Furaldehyde (1.99 g) by non-critical variations of PREPARATION 15 to give 3-(2-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula P-2, X=0), m.p. 161-162°.

reactant | 3-(3-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone | O1C=C(C=C1)C1(CN=C2SC3=C(N21)CCCCC3)C(C)=O | C16H18N2O2S
reactant | 2-Furaldehyde | 1.99 g | O1C(=CC=C1)C=O | C5H4O2
product | 3-(2-Furanyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | O1C(=CC=C1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C17H16N2O2S
